US04067720
1 ml of triethylamine and 6.7 g of methyl isocyanate were added to a solution of 14.01 g of 3-hydroxy-5-cyclohexyloxy-1,2,4-thiadiazole in 150 ml of tetrahydrofuran and the mixture was stirred for 2 hours at 20° C, treated with activated carbon, stirred and filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was taken up in isopropyl ether. The mixture was vacuum filtered and the recovered crystals were dried to obtain 13.5 g of 2-(N-methylcarbamoyl)-5-cyclohexyloxy-1,2,4-thiadiazole-3-one melting at 121° C.

reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 6.7 g | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-cyclohexyloxy-1,2,4-thiadiazole | 14.01 g | OC1=NSC(=N1)OC1CCCCC1 | C8H12N2O2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-cyclohexyloxy-1,2,4-thiadiazole-3-one | 13.5 g | CNC(=O)N1SC(=NC1=O)OC1CCCCC1 | C10H15N3O3S
